US05391556
4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(1-oxidothiomorpholin-4-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide
Prepared from 4-amino-N-[1-((4-amino-3-nitro-phenyl)methyl)-2-(1-oxido-thiomorpholin-4-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide and cyclising with formic acid in the presence of palladium/charcoal analogously to Example 1.

reactant | 4-amino-N-[1-((4-amino-3-nitro-phenyl)methyl)-2-(1-oxido-thiomorpholin-4-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCS(CC1)=O)CC1=CC(=C(C=C1)N)[N+](=O)[O-])Cl | C19H21Cl2N5O6S2
reactant | formic acid | C(=O)O | CH2O2
catalyst | palladium/charcoal | [Pd] | Pd
product | 4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(1-oxidothiomorpholin-4-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCS(CC1)=O)CC1=CC2=C(NC=N2)C=C1)Cl | C20H21Cl2N5O4S2
